* D:\General Data\Files\Projects\1) Major Projects\SOAR PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Cross Conduction Prototype 2.asc
* Generated by LTspice 24.1.4 for Windows.
V1 N003 0 PULSE(0 5 110m 30u 15u 10 0 0)
A1 N004 0 0 N008 0 N009 N005 0 AND Vhigh = 5, Td = 33n
R1 N007 0 10000
R2 N003 0 10000
V3 N007 0 PULSE(5 0 0.1 30u 20u 10 0.1 4)
R3 N005 0 10000
A4 N011 VOUT 0 0 0 0 N012 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 10n
A5 N011 VOUT 0 0 0 0 N014 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 10n
V2 N011 0 24
V4 N006 0 PULSE(50 0 0.1 0 20u 0.1)
R4 N010 0 10000
R5 N013 0 10000
D1 N010 OUTSIG D
D2 N013 OUTSIG D
A6 N005 N007 0 0 N014 0 N013 0 AND Vhigh = 5, Td = 33n
A2 N005 N003 0 0 N012 0 N010 0 AND Vhigh = 5, Td = 33n
A3 N003 0 0 0 0 N004 0 0 BUF Vhigh = 5
A7 N007 0 0 0 0 N008 0 0 BUF Vhigh = 5
M1 N002 OUTSIG N005 N005 PMOS
R6 OUTSIG 0 1000
R7 N002 N001 1
C1 N001 0 50p
D3 N001 N003 D
D4 N001 N007 D
R8 VOUT N006 1000
C2 VOUT 0 10µ
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0.5
.backanno
.end
