* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Dflop Transition Pulse Circuit TEST.asc
* Generated by LTspice 24.1.4 for Windows.
A1 N001 0 N001 0 N003 0 N002 0 DFLOP Vhigh = 5, Vt = 2.5
R1 N004 N001 25000
R2 P001 N001 220
D1 N004 P001 D
C1 N004 0 230p
R3 N001 0 66000
V1 N001 0 PULSE(0 5 5m 10n 0 10mm 30m 2)
A2 N004 0 0 0 0 0 N003 0 SCHMITT Vt =2.5 Vh = 0.5, Vhigh = 5, Trise = 2.5n
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 40m
.backanno
.end
