* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Draft1.asc
* Generated by LTspice 24.1.4 for Windows.
R1 N003 0 10000
R2 N002 N003 3461
R3 N001 N002 13461
V1 N001 0 14
.tran 100m
.backanno
.end
