* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Draft2.asc
* Generated by LTspice 24.1.4 for Windows.
A1 N001 0 0 0 N004 0 N005 0 AND
V1 N001 0 .5
V2 N004 0 2
A2 N001 0 0 0 N004 0 N002 0 OR
A3 N002 0 0 0 0 N003 0 0 BUF
.tran 3
.backanno
.end
