* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Draft3.asc
* Generated by LTspice 24.1.4 for Windows.
V1 N001 0 PULSE(0 1 1 1u 1u 2 6 1)
C1 N002 0 0.05
R1 N002 N001 100
R2 N002 0 100
.tran 4
.backanno
.end
