* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Draft6.asc
* Generated by LTspice 24.1.4 for Windows.
S1 0 NC_01 N002 0 MySwitch
S2 0 NC_02 N001 0 MySwitch
.tran 0.1
.model MySwitch SW(Ron=.1 Roff=1Meg Vt=0 Vh=-.5 Lser=10n Vser=.6)
.backanno
.end
