* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\PMOS Bidirectional Switch Prototype 6.asc
* Generated by LTspice 24.1.4 for Windows.
V8 N001 0 48
V9 N007 0 PULSE(0 10 160m 1u 1u 20m 160m 2)
R12 N007 N006 220
R13 N007 0 10000
C4 N006 0 10p
D3 N004 N002 EDZV22B
M1 N001 N003 N002 N002 Si7469DP
M2 LOAD N003 N002 N002 Si7469DP
M3 N005 N006 0 0 BSC047N08NS3
C2 N001 0 10n
R1 N002 N004 10000
C1 N004 0 10n
D1 N004 N003 UDZV15B
R2 N003 N004 6100
C3 LOAD N003 9.8n
R3 LOAD 0 100
R4 N003 N005 0.01
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
.tran 600ms
.backanno
.end
