* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\PMOS Bidirectional Switch Prototype 7.asc
* Generated by LTspice 24.1.4 for Windows.
R6 0 LOAD 4.5
V8 N002 0 48
V9 N010 0 PULSE(0 10 160m 1u 1u 20m 160m 2)
R12 N010 N009 100000
R13 N010 0 10000
C4 N009 0 10p
R18 N005 N008 1000
D3 N007 N004 EDZV22B
R14 N003 N002 0.01
M1 N003 N005 N004 N004 Si7469DP
M2 LOAD N005 N004 N004 Si7469DP
M3 N008 N009 0 0 BSC047N08NS3
C12 LOAD 0 100µ Rser=0.05
R1 N007 0 10e5
C1 N007 0 100n
R2 N004 N007 10e4
D2 N007 N005 EDZV11B
R3 P001 N007 10e3
C2 LOAD P001 250n
D1 0 N001 EDZV11B
R4 N006 0 10
R5 N001 N006 40
V1 N001 0 48
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
* THIS NEW GATE DRIVER SETUP WORKS - MAY 6
.tran 600ms
.backanno
.end
