* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Schmitt Tigger Test.asc
* Generated by LTspice 24.1.4 for Windows.
A1 N004 N007 N007 N007 N007 N007 N003 N007 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.1, Vh = 0.05
V1 N007 0 PULSE(0 1 0 20m 20m 5)
V2 N004 0 1
A2 N001 N005 0 0 0 N006 N002 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.1, Vh = 0.05
V3 N005 0 1
V4 N001 0 PULSE(0 1.5 0 20m 20m 5)
.tran 1
.backanno
.end
