* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Schmitt Trigger Test.asc
* Generated by LTspice 24.1.4 for Windows.
A1 N002 0 0 0 0 0 N001 0 SCHMITT
V1 N002 0 PULSE(0 0.53 0 0.1 0.1 0.1 0.5 10)
.tran 1
.backanno
.end
