* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Switching Logic OLD.asc
* Generated by LTspice 24.1.4 for Windows.
V1 N001 0 PULSE(0 20 0 400m 1 5 5 1)
V2 N002 0 PULSE(0 20 0 100m 4u 3 5 1)
V3 N003 0 PULSE(0 20 1 0.1 0.1 10 11 1)
X§U1 N005 N006 N005 0 N007 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U2 N005 N011 N005 0 N010 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U3 N005 N015 N005 0 N016 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N001 N006 10000
R2 N006 0 20000
R3 N002 N011 100
R4 N011 0 200
R5 N003 N015 100
R6 N015 0 200
V4 N017 0 5
A1 N007 0 0 0 0 N008 0 0 BUF
A2 N008 0 0 0 N010 0 N009 0 OR
A4 N008 0 0 0 N014 0 N012 0 OR
A5 N010 0 0 0 0 N014 0 0 BUF
A3 N012 0 0 0 N016 0 N013 0 OR
R9 N005 N017 0.1
R10 N004 N007 2000
C1 N004 0 500nf
C2 N006 0 500n
C3 N011 0 500n
C4 N015 0 500n
.tran 3
.lib UniversalOpAmp2.lib
.backanno
.end
