.subckt SN74LVC1G11DCKR IN1 IN2 IN3 IN4 IN5 OUT
A1 IN1 0 0 0 0 0 N001 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
A2 IN2 0 0 0 0 0 N002 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
A3 IN3 0 0 0 0 0 N003 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
A4 IN4 0 0 0 0 0 N004 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
A5 N001 N002 N003 N004 N005 0 OUT 0 AND Vhigh = 4.9, Vlow = 0.1,Td = 5n, Trise = 2.5n, Tfall = 2.5n
A6 IN5 0 0 0 0 0 N005 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
.ends SN74LVC1G11DCKR